datasets/10k__Tet_Int.csv
SMILES Labelled
"C[O+:10]([H])[C:20]1([NH:21]C)[NH][CH](C)C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C(C8=CC=CC=C8)[O]2.C[O:10][H] 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]C1=CC=CC=C1)[H])CC>>CCCCCCC1C(C(O[C:20](=[O:10])N1CCCCCC)[H])CC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[O:10]([Na])C(CC)/C(C)=C([C:20]([H])=[O:21])/[H]>>[O-:21][C:20]1([H])[O+:10]([Na])C(CC)C(C)=C1[H] 10=20;20,21=21"
"[H][S+:10](C(C9=CC=CC=C9)C(CC)[S]1)[C:20]1([O:21][H])[S]C.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C(CC)[S][C:20]([S]C)=[O+:21][H] 21=20;20,10=10"
"[OH:10]C(C)/C(C)=C([C:20](C)=[OH+:21])/[H]>>[OH:21][C:20]1(C)[OH+:10]C(C)C(C)=C1[H] 10=20;20,21=21"
"[NH:10](CC)C1=C(C([H])[C:20](OCC)=[O:21])C=CC=C1>>[O-:21][C:20]2([NH+:10](CC)C(C=CC=C3)=C3C2[H])OCC 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)C(CC)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(CC)C(CC)[S]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(CC)C(CC)[S]1 10=20;20,21=21"
"CN([C:20]([O-:10])(OC1=CC=CC=C1)[O:21]CC)C>>CN([C:20](=[O:10])OC1=CC=CC=C1)C.[O-:21]CC 10=20;20,21=21"
"[H][NH+:10](C(CC)C([H])C(CC)[O]1)[C:20]1([NH:21]CC)[NH]C.[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])C(CC)[O][C:20]([NH]C)=[NH+:21]CC 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[S]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21][H])[S][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[S]1 10=20;20,21=21"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])[H])CC)[H])C1=CC=CC=C1>>CCCCCCN([C:20]1(OC(C(C([O:21]1)[H])CC)[H])[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"C1(C([O:21][C:20](O1)([O-:10])OCC)CC)[H]>>C(C(O[C:20](=[O:10])OCC)[H])([O-:21])CC 10=20;20,21=21"
"[O-:10]C(C(C1=C(C=CC=C1)[CH:20]([H])=[O:21])[H])C>>[O-:21][CH:20]2([H])C3=C(C(C([O:10]2)C)[H])C=CC=C3  10=20;20,21=21"
"C[S:10][H].[H][O+:21]=[C:20]([S]C8=CC=CC=C8)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].C[S+:10]([H])[C:20]([O:21][H])([S]C8=CC=CC=C8)[S]C7=CC=CC=C7 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CC)CCCCCC)CCCCCC>>[H]N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CC)CCCCCC)[O-:10])CCCCCC 21=20;20,10=10"
"[O-:21][C:20]1(OCC)[O+:10]([Na])C(CC)C(C)C1C>>[O:10]([Na])C(CC)C(C)C([C:20](OCC)=[O:21])C 21=20;20,10=10"
"[H][NH+:10](C(C9=CC=CC=C9)C([H])C([H])[O]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C([H])C([H])[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH]([H])C([H])[CH](C)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(C)[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[H][NH+:10](C(C)C([H])[O]1)[C:20]1([NH:21][H])[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(C)C([H])[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C(C)C([H])[O][C:20]([NH]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)C([H])[O]1)[C:20]1([NH:21][H])[NH]CC 10=20;20,21=21"
"C[O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH]([H])C([H])[O]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21]C)[S][CH](C7=CC=CC=C7)C([H])[CH]([H])[O]1 10=20;20,21=21"
"[O-:21][C:20]1(OC)C(C)C(C)C([H])C([H])[NH+:10]1([H])>>[NH:10]([H])C([H])C([H])C(C)C(C)[C:20](OC)=[O:21] 21=20;20,10=10"
"CCN([C:20]1(OC(C(C([O:21]1)CCCCCC)CC)C1=CC=CC=C1)[O-:10])[H]>>CCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CC)C1=CC=CC=C1)[H] 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(C)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(C)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH]([H])C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(CC)[O]2.CC[NH:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(C)C([H])=C([H])C(C)C([H])[O:10]1>>[O-:10]C([H])C(C)/C([H])=C([H])\[C:20](C)=[O:21] 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH]([H])C(C)[CH](C)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(C)[O]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[H][S+:10](C(CC)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C(CC)C(C8=CC=CC=C8)[O][C:20]([S]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"[Li][O:21]CC.[C:20](=[O:10])(OCCCCCC)OCC>>[Li][O+:21]([C:20]([O-:10])(OCCCCCC)OCC)CC 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(C)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH]([H])C(C)[CH](C)[O]1 10=20;20,21=21"
"[O-:21][C:20]1(C)C([H])C([H])C(C)C(CC)[O+:10]1([Na])>>[O:10]([Na])C(CC)C(C)C([H])C([H])[C:20](C)=[O:21] 21=20;20,10=10"
"[O-:21][C:20]1(OC)C(O)C(O)C(C)C(CC)[NH+:10]1([H])>>[NH:10]([H])C(CC)C(C)C(O)C(O)[C:20](OC)=[O:21] 21=20;20,10=10"
"CCN([C:20](=[O:10])OC(C(C([O-:21])CC)CC)C)C1=CC=CC=C1>>CCN([C:20]1(OC(C(C([O:21]1)CC)CC)C)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
